US04218461
9.6 G of 2,3-dihydro-2-(hydroxymethylene)-1H-inden-1-one (0.06 mol) are suspended in 150 ml of benzene. While stirring 11.5 g of carbonyl-bis-imidazole (0.072 mol) are added and the reaction mixture is warmed to about 70°-75° C. for a short time to get the components dissolved. If required, the solution is filtered clear and then allowed to stand at room temperature for 17 hours. The crystallized product is filtered off, washed with benzene and dried. Treatment with 100 ml of water and drying in the desiccator over P2O5 furnishes the 2,3-dihydro-2-[(1H-imidazol-1-yl)-methylene]-1H-inden-1-one which after recrystallization from ethylacetate melts at 183°-185° C., yield 10 g (79%).

reactant | 2,3-dihydro-2-(hydroxymethylene)-1H-inden-1-one | 0.06 mol | OC=C1C(C2=CC=CC=C2C1)=O | C10H8O2
reactant | carbonyl-bis-imidazole | 0.072 mol, 11.5 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2,3-dihydro-2-[(1H-imidazol-1-yl)-methylene]-1H-inden-1-one | N1(C=NC=C1)C=C1C(C2=CC=CC=C2C1)=O | C13H10N2O
